US07553854B2
Step 1. Synthesis of 4-(4-amino-3-methylphenoxy)-N-methylpicolinamide
To the solution of 4-amino-m-cresol (125 mg, 1.01 mmol, 1.0 eq) in 1 mL of NMP was added 4-chloro-N-methylpicolinamide (189 mg, 1.11 mmol, 1.1 eq) and cesium carbonate (658 mg, 2.02 mmol, 2.0 eq) at room temperature. The reaction mixture was stirred at 75° C. for 12 hours, thereafter the mixture was diluted with water (ca. 50 mL) and aqueous layer extracted with ethyl acetate (ca. 50 mL×3). Combined organic layers were dried over sodium sulfate, filtered and condensed under reduced pressure to give sufficiently pure crude product which was carried to next step without further purification. LC/MS (m/z) [258.1] (MH+).

reactant | 4-amino-m-cresol | 1.01 mmol, 125 mg, 1.0 eq | NC=1C(=CC(=CC1)O)C | C7H9NO
reactant | 4-chloro-N-methylpicolinamide | 1.11 mmol, 189 mg, 1.1 eq | ClC1=CC(=NC=C1)C(=O)NC | C7H7ClN2O
reactant | cesium carbonate | 2.02 mmol, 658 mg, 2.0 eq | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
solvent | water | ca. 50 mL | O | H2O
product | 4-(4-amino-3-methylphenoxy)-N-methylpicolinamide | NC1=C(C=C(OC2=CC(=NC=C2)C(=O)NC)C=C1)C | C14H15N3O2
